US07375099B2
c) 2-Methyl-N-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-N′-phenyl-malonamide
2-Methyl-N-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamic acid (20 mg, 0.059 mmol) and aniline (6 mg, 0.059 mmol) were placed in a disposable polypropylene tube and dissolved in DMF (2 ml). TPTU (2-(2-pyridon-1-yl)-1,1,3,3-tetramethyl uronium tetrafluoroborate, 19 mg, 0.065 mmol) was added, and the mixture was shaken overnight at r.t. The title compound, MS: m/e=414.2 (M+H+), was isolated from the reaction mixture by automated, preparative HPLC (YMC CombiPrep C18 column 50×20 mm, solvent gradient 5-95% CH3CN in 0.1% TFA(aq) over 6.0 min, λ=230 nm, flow rate 40 ml/min).

reactant | 2-Methyl-N-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamic acid | 0.059 mmol, 20 mg | CC(C(=O)O)C(=O)NC1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2 | C19H18N2O4
reactant | aniline | 0.059 mmol, 6 mg | NC1=CC=CC=C1 | C6H7N
reactant | TPTU | 0.065 mmol, 19 mg | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C=CC=CC1=O
reactant | CH3CN | CC#N | C2H3N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-Methyl-N-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-N′-phenyl-malonamide | CC(C(=O)NC1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2)C(=O)NC2=CC=CC=C2 | C25H23N3O3
